US08008295B2
Step A: 5-Methoxy-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 3-(chlorosulfonyl)-5-methoxy-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride and triethylamine with morpholine, the title compound was obtained. HRMS (ES) exact mass calculated for C14H18N3O5S (M+H+): 340.0962. Found 340.0960.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 3-(chlorosulfonyl)-5-methoxy-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClS(=O)(=O)C1=C(N(C2=CC=C(C=C12)OC)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C18H16ClNO7S2
reactant | methylamine hydrochloride | Cl.CN
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-Methoxy-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | COC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H17N3O5S
